US05280032
A mixture of 5.00 g of 1-benzyl-4-hydroxypiperidine, 1.97 g of potassium tert-butoxide and 4 ml of dimethyl sulfoxide was heated to 80° C. Thereto was dropwise added 2.10 g of styrene oxide over 40 minutes. The resulting mixture was stirred for 3 hours at the same temperature. The reaction mixture was added to a mixture of 100 ml of ice water and 80 ml of ethyl acetate. The mixture was adjusted to pH 11.5 with 6N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue thus obtained was purified by column chromatography (eluant: chloroform/ethanol=10/1). The resulting oily product was dissolved in 8 ml of ethanol. To the solution were added 1 ml of a 6N dry hydrogen chloride-ethanol solution and 20 ml of diethyl ether. The mixture was stirred for 30 minutes at room temperature. The resulting crystals were collected by filtration, washed with a mixture of 2 ml of ethanol and 2 ml of diethyl ether, and dried to obtain 930 mg of 2-(1-benzylpiperidin-4-yloxy)-1-phenylethanol hydrochloride (compound No. 113).

reactant | 1-benzyl-4-hydroxypiperidine | 5.00 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | potassium tert-butoxide | 1.97 g | CC(C)([O-])C.[K+]
reactant | styrene oxide | 2.10 g | C1C(C2=CC=CC=C2)O1 | C8H8O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 2-(1-benzylpiperidin-4-yloxy)-1-phenylethanol hydrochloride | 930 mg | Cl.C(C1=CC=CC=C1)N1CCC(CC1)OCC(O)C1=CC=CC=C1 | InChI=1S/C20H25NO2.ClH/c22-20(18-9-5-2-6-10-18)16-23-19-11-13-21(14-12-19)15-17-7-3-1-4-8-17;/h1-10,19-20,22H,11-16H2;1H
